US07238808B2
3-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 5-(4-Chloro-phenyl)-3-ethynyl-7-trifluoromethyl pyrazolo[1,5-a]pyrimidine (example C.4) (322 mg, 1.0 mmol) and 4-bromo-benzenesulfonamide (236 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (320 mg, 67%). MS (ISP) 477.0 [(M+H)+]; mp 290–293° C.

reactant | 5-(4-Chloro-phenyl)-3-ethynyl-7-trifluoromethyl pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 322 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H7ClF3N3
reactant | 4-bromo-benzenesulfonamide | 1.0 mmol, 236 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 3-[5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)N | C21H12ClF3N4O2S
